US04198527
The mixture of 20.9 g (113 mmol) sodium trichloroacetate, 15.4 g (80 mmol) ethyl 3-phenoxy-2-propenoate and 50 ml dry 1,2-dimethoxyethane is heated under reflux for 10 hr, under nitrogen. The mixture is filtered and solvent removed. The residue is purified by chromatography on silica gel, giving ethyl 3-phenoxy-2,2-dichlorocyclopropanecarboxylate, which is then hydrolyzed, as in Example 3, to give the corresponding carboxylic acid.

reactant | sodium trichloroacetate | 113 mmol, 20.9 g | ClC(C(=O)[O-])(Cl)Cl.[Na+]
reactant | ethyl 3-phenoxy-2-propenoate | 80 mmol, 15.4 g | O(C1=CC=CC=C1)C=CC(=O)OCC | C11H12O3
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | ethyl 3-phenoxy-2,2-dichlorocyclopropanecarboxylate | O(C1=CC=CC=C1)C1C(C1C(=O)OCC)(Cl)Cl | C12H12Cl2O3
